US06040453
According to the present invention, it is considered that equal moles of dicyan reacts with equal moles of sodium azide and ammonium chloride or with ammonium azide to form a 5-cyano-1H-tetrazole which is an intermediate product of a 5,5'-bi-1H-tetrazole. Then, this intermediate product reacts with another mole of sodium azide and ammonium chloride or with ammonium azide to form the desired 5,5'-bi-1H-tetrazole diammonium salt.

reactant | 5,5'-bi-1H-tetrazole | N1N=NN=C1C1=NN=NN1 | C2H2N8
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonium azide | [N-]=[N+]=[N-].[NH4+]
product | 5,5'-bi-1H-tetrazole diammonium salt | [NH4+].[NH4+].N1N=NN=C1C1=NN=NN1 | InChI=1S/C2H2N8.2H3N/c3-1(4-8-7-3)2-5-9-10-6-2;;/h(H,3,4,7,8)(H,5,6,9,10);2*1H3/p+2
